US07943619B2
Furan-2-carboxylic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-amide
As described for example 18, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine (280 mg, 1 mmol) was converted, using 2-furoyl chloride instead of methoxyacetyl chloride, to the title compound (330 mg, 86%) which was obtained as a white solid. MS: m/e=377.2 [M+H]−.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-ylamine | 1 mmol, 280 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)N | C15H14N4O2
reactant | 2-furoyl chloride | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | Furan-2-carboxylic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-amide | 330 mg, 86% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(N=N1)NC(=O)C=1OC=CC1 | C20H16N4O4
